US07279470B2
Morpholine-4-carboxylic acid 3-(4-fluoro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-(4-fluorobenzyl)-7-hydroxy-4-methyl-2H-chromen-2-one and morpholine-4-carbonyl chloride. The crude product was recrystallized (ethanol) (78%, crystals). HPLC-MS m/z=398.0 (M+1), Rt: 4.3 min.

reactant | 3-(4-fluorobenzyl)-7-hydroxy-4-methyl-2H-chromen-2-one | FC1=CC=C(CC=2C(OC3=CC(=CC=C3C2C)O)=O)C=C1 | C17H13FO3
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 3-(4-fluoro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | FC1=CC=C(CC=2C(OC3=CC(=CC=C3C2C)OC(=O)N2CCOCC2)=O)C=C1 | C22H20FNO5
